US05747498
(3-Ethynylphenyl)-(6,7-methylenedioxyquinazolin-4-yl)-amine Hydrochloride
4-Chloro-6,7-methylenedioxyquinazoline (200 mg, 1.04 mmol) and 3-ethynylaniline (127 mg, 1.09 mmol) were refluxed in 5 mL of isopropyl alcohol for 16 hour, cooled and filtered to afford solid title product which was washed with 10 mL of isopropyl alcohol and dried in vacuo at 70° C., 266 mg (79%); mp >350° C.

reactant | 4-Chloro-6,7-methylenedioxyquinazoline | 1.04 mmol, 200 mg | ClC1=NC=NC2=CC3=C(C=C12)OCO3 | C9H5ClN2O2
reactant | 3-ethynylaniline | 1.09 mmol, 127 mg | C(#C)C=1C=C(N)C=CC1 | C8H7N
solvent | isopropyl alcohol | 5 mL | C(C)(C)O | C3H8O
product | (3-Ethynylphenyl)-(6,7-methylenedioxyquinazolin-4-yl)-amine Hydrochloride | Cl.C(#C)C=1C=C(C=CC1)NC1=NC=NC2=CC3=C(C=C12)OCO3 | InChI=1S/C17H11N3O2.ClH/c1-2-11-4-3-5-12(6-11)20-17-13-7-15-16(22-10-21-15)8-14(13)18-9-19-17;/h1,3-9H,10H2,(H,18,19,20);1H
